US07718645B2
Methyl {4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenoxy]phenyl}acetate
A stirred slurry of 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one (38 mg, 0.10 mmol), methyl 4-hydroxyphenylacetic acid (25 mg, 0.15 mmol), cesium carbonate (78 mg, 0.24 mmol), N,N-dimethyl glycine (10.3 mg, 0.10 mmol) and copper (I) iodide (6 mg, 0.03 mmol) in p-dioxane (0.4 mL) were heated at 90° C. for 18 hours. The reaction mixture was cooled, concentrated in vacuo and chromatographed (0-5% methanol: chloroform) to afford the title compound as a solid, 2.4 mg. 1H NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 7.25 (d, 2H), 7.20 (d, 2H), 7.07 (d, 2H), 7.02 (d, 2H), 4.69 (m, 2H), 4.00 (m, 2H), 3.68 (s, 3H). m/z=421.2 (M+1). IC50 254 nM.

reactant | 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one | 0.10 mmol, 38 mg | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)I)=O | C13H11IN4O2
reactant | methyl 4-hydroxyphenylacetic acid | 0.15 mmol, 25 mg | CC(C(=O)O)C1=CC=C(C=C1)O | C9H10O3
reactant | cesium carbonate | 0.24 mmol, 78 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethyl glycine | 0.10 mmol, 10.3 mg | CN(CC(=O)O)C | C4H9NO2
solvent | p-dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.03 mmol, 6 mg | [Cu]I
product | Methyl {4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenoxy]phenyl}acetate | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(OC1=CC=C(C=C1)CC(=O)OC)C=C2)=O | C22H20N4O5
